US07037922B1
To a solution of 250 mg of 2-phenylpyridino[4,3-b]pyridin-4-yl carboxylic acid dissolved in 5 mL of dimethylacetamide and 200 uL of triethylamine is added 500 mg of BOP in 5 mL of dichloroethane followed by 150 mg of (S)-1-phenylpropylamine. The reaction mixture is stirred for 16 hours at room temperature. The reaction mixture is poured onto 50 mL of 1N NaOH and the product is extracted with 25 mL of ethyl acetate. After drying over magnesium sulfate the solvent is removed in vacuo to afford N—[(S)-1-phenyl-1-propyl)]-(2-phenylpyridino[4,3-b]pyridin-4-yl)carboxamide as a solid.

reactant | 2-phenylpyridino[4,3-b]pyridin-4-yl carboxylic acid | 250 mg | C1(=CC=CC=C1)C1=CC(=C2C(=N1)C=CN=C2)C(=O)O | C15H10N2O2
reactant | BOP | 500 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (S)-1-phenylpropylamine | 150 mg | C1(=CC=CC=C1)[C@H](CC)N | C9H13N
reactant | NaOH | 1N, 50 mL | [OH-].[Na+]
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | triethylamine | 200 uL | C(C)N(CC)CC | C6H15N
product | (2-phenylpyridino[4,3-b]pyridin-4-yl)carboxamide | C1(=CC=CC=C1)C1=CC(=C2C(=N1)C=CN=C2)C(=O)N | C15H11N3O
